US06281230B1
3-(3-Nitrophthalimido)-3-methylpiperidine-2,6-dione (0.5 g, 1.57 mmol) was dissolved in acetone (250 mL) with gentle heat and then cooled to room temperature. To this solution was added 10% Pd/C (0.1 g) under nitrogen. The mixture was hydrogenated in a Parr apparatus at 50 psi of hydrogen for 4 hours. The mixture then was filtered through Celite and the pad washed with acetone (50 mL). The filtrate was concentrated in vacuo to yield a yellow solid. The solid was slurried in ethyl acetate (10 mL) for 30 minutes. The slurry then was filtered and dried (60° C., <1 mm) to afford 0.37 g (82%) of 3-(3-aminophthalimido)-3-methylpiperidine-2,6-dione as a yellow solid: mp 268-269° C.; 1H NMR (DMSO-d6) δ10.98 (s. 1H), 7.44 (dd, J=7.1 and 7.3 Hz, 1H), 6.99 (d, J=8.4 Hz, 1H), 6.94 (d, J=6.9 Hz, 1H), 6.52 (s, 2H), 2.71-2.47 (m, 3H), 2.08-1.99 (m. 1H), 1.87 (s, 3H); 13C NMR (DMSO-d6) δ172.48, 172.18, 169.51, 168.06, 146.55, 135.38, 131.80, 121.51, 110.56, 108.30, 58.29, 29.25, 28.63, 21.00; HPLC, Water Nova-Pak/Cl8 column, 4 micron, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4(aq), 5.62 min (99.18%). Anal. Calcd For C14H13N3O4: C, 58.53; H, 4.56; N, 14.63. Found: C, 58.60; H, 4.41; N, 14.36.

reactant | 3-(3-Nitrophthalimido)-3-methylpiperidine-2,6-dione | 1.57 mmol, 0.5 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C2(C(NC(CC2)=O)=O)C)=CC=C1 | C14H11N3O6
reactant | hydrogen | [H][H] | H2
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3-(3-aminophthalimido)-3-methylpiperidine-2,6-dione | 0.37 g, 82% | NC1=C2C(C(=O)N(C2=O)C2(C(NC(CC2)=O)=O)C)=CC=C1 | C14H13N3O4
